### PR TITLE
[Merged by Bors] - feat: add module instance to ContDiffMapSupportedIn

### PR DESCRIPTION
**Pull request by luigi-massacci**
Add a module instance for the type `ContDiffMapSupportedIn` of n-times continuously differentiable maps supported in a fixed compact.

---

- [x] depends on: #30197  

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 1]
```diff
@@ -0,0 +1,263 @@
...
+  DFunLike.ext' h
+
+@[simp]
+theorem toBoundedContinuousFunction_apply (f : 𝓓^{n}_{K}(E, F)) (x : E) :
+   (f : BoundedContinuousFunction E F) x  = (f x) := rfl
+
+theorem _root_.Set.EqOn.comp_left₂ {α β δ γ} {op : α → β → δ} {a₁ a₂ : γ → α}
+    {b₁ b₂ : γ → β} {s : Set γ} (ha : s.EqOn a₁ a₂) (hb : s.EqOn b₁ b₂) :
+    s.EqOn (fun x ↦ op (a₁ x) (b₁ x)) (fun x ↦ op (a₂ x) (b₂ x)) := fun _ hx =>
+  congr_arg₂ _ (ha hx) (hb hx)
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Could you move this right after [Set.EqOn.comp_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Function.html#Set.EqOn.comp_left)?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 2]
```diff
@@ -0,0 +1,263 @@
...
+def Simps.apply (f : 𝓓^{n}_{K}(E, F)) : E →F  := f
+
+-- this must come after the coe_to_fun definition.
+initialize_simps_projections ContDiffMapSupportedIn (toFun → apply)
+
+@[ext]
+theorem ext {f g : 𝓓^{n}_{K}(E, F)} (h : ∀ a, f a = g a) : f = g :=
+  DFunLike.ext _ _ h
+
+/-- Copy of a `BoundedContDiffMap` with a new `toFun` equal to the old one. Useful to fix
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
/-- Copy of a `ContDiffMapSupportedIn` with a new `toFun` equal to the old one. Useful to fix
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 3]
```diff
@@ -0,0 +1,263 @@
...
+    rw [← neg_zero]
+    exact f.zero_on_compl.comp_left
+
+instance instSub : Sub 𝓓^{n}_{K}(E, F) :=
+  ⟨fun f g =>
+    ⟨f - g, (f.contDiff).sub (g.contDiff), by
+      intro x hx
+      simp [f.zero_on_compl hx, g.zero_on_compl hx]
+    ⟩
+  ⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
instance instSub : Sub 𝓓^{n}_{K}(E, F) where
  sub f g := ContDiffMapSupportedIn.mk (f - g) (f.contDiff.sub g.contDiff) <| by
    rw [← sub_zero 0]
    exact f.zero_on_compl.comp_left₂ g.zero_on_compl
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 4]
```diff
@@ -0,0 +1,263 @@
...
+
+instance instSMul {R} [Semiring R] [Module R F] [SMulCommClass ℝ R F] [ContinuousConstSMul R F] :
+   SMul R 𝓓^{n}_{K}(E, F) :=
+⟨fun c f ↦
+  ContDiffMapSupportedIn.mk (c • (f : E → F)) (f.contDiff.const_smul c) <| by
+    rw [← smul_zero c]
+    exact f.zero_on_compl.comp_left⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
instance instSMul {R} [Semiring R] [Module R F] [SMulCommClass ℝ R F] [ContinuousConstSMul R F] :
   SMul R 𝓓^{n}_{K}(E, F) where
  smul c f := ContDiffMapSupportedIn.mk (c • (f : E → F)) (f.contDiff.const_smul c) <| by
    rw [← smul_zero c]
    exact f.zero_on_compl.comp_left
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 5]
```diff
@@ -0,0 +1,263 @@
...
+instance instZSMul : SMul ℤ 𝓓^{n}_{K}(E, F) :=
+ ⟨fun c f ↦
+    {
+      toFun := c • f
+      contDiff' := (f.contDiff).const_smul c
+      zero_on_compl' := by
+        rw [← smul_zero c]
+        exact f.zero_on_compl.comp_left
+    }
+  ⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I don't think these are needed thanks to the generic `smul` instance above?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 2 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Oops, copy paste error...

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 5 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Yes it doesn't appear to break anything and I don't really remember why I spelled them out explicitly in the first place

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I think this one goes back to me (notice that `BoundedContDiffMap` does not exist) !

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 1 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Did it in another branch to PR just that and then forgot... Done.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 2 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Ah yes. I had copy pasted the docstring for `ContDiffMapSupportedInClass` from `BoundedContinuousMapClass` instead

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 6]
```diff
@@ -0,0 +1,249 @@
...
+@[simp]
+theorem coe_copy (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : ⇑(f.copy f' h) = f' :=
+  rfl
+
+theorem copy_eq (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : f.copy f' h = f :=
+  DFunLike.ext' h
+
+@[simp]
+theorem toBoundedContinuousFunction_apply (f : 𝓓^{n}_{K}(E, F)) (x : E) :
+   (f : BoundedContinuousFunction E F) x  = (f x) := rfl
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
   (f : BoundedContinuousFunction E F) x = (f x) := rfl
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 7]
```diff
@@ -0,0 +1,249 @@
...
+
+@[simp]
+lemma add_apply (f g : 𝓓^{n}_{K}(E, F)) (x : E) : (f + g) x = f x + g x :=
+  rfl
+
+instance : Neg 𝓓^{n}_{K}(E, F) where
+  neg f := ContDiffMapSupportedIn.mk (-f) (f.contDiff.neg) <| by
+    rw [← neg_zero]
+    exact f.zero_on_compl.comp_left
+
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:199]: Should there also be `coe_neg` or `neg_apply` lemmas?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 8]
```diff
@@ -0,0 +1,249 @@
...
+    (c : R) (f : 𝓓^{n}_{K}(E, F)) : (c • f : 𝓓^{n}_{K}(E, F)) = c • (f : E → F) :=
+  rfl
+
+@[simp]
+lemma smul_apply {R} [Semiring R] [Module R F] [SMulCommClass ℝ R F] [ContinuousConstSMul R F]
+    (c : R) (f : 𝓓^{n}_{K}(E, F)) (x : E) : (c • f) x = c • (f x) :=
+  rfl
+
+instance : AddCommGroup 𝓓^{n}_{K}(E, F) :=
+  DFunLike.coe_injective.addCommGroup _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Use \mapsto?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 9]
```diff
@@ -0,0 +1,249 @@
...
+    (fun _ _ => rfl) fun _ _ => rfl
+
+variable (E F K n)
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:241]: How about `variable (E F K n) in`? Or are you intentionally making `K` and `n` explicit from now on?

File: Mathlib/Data/Set/Function.lean [hunk 10]
```diff
@@ -87,6 +87,11 @@ theorem EqOn.union (h₁ : EqOn f₁ f₂ s₁) (h₂ : EqOn f₁ f₂ s₂) : E
 theorem EqOn.comp_left (h : s.EqOn f₁ f₂) : s.EqOn (g ∘ f₁) (g ∘ f₂) := fun _ ha =>
   congr_arg _ <| h ha
 
+theorem EqOn.comp_left₂ {α β δ γ} {op : α → β → δ} {a₁ a₂ : γ → α}
+    {b₁ b₂ : γ → β} {s : Set γ} (ha : s.EqOn a₁ a₂) (hb : s.EqOn b₁ b₂) :
+    s.EqOn (fun x ↦ op (a₁ x) (b₁ x)) (fun x ↦ op (a₂ x) (b₂ x)) := fun _ hx =>
+  congr_arg₂ _ (ha hx) (hb hx)
```
Comment (grunweg) [inline Mathlib/Data/Set/Function.lean]: I would write the proof on one line (and use \mapsto).

**Review by grunweg — COMMENTED** [review]
I know this PR is not ready for review yet --- but to save you turnaround time, I took a look at the new parts anyway. Just a couple of nits. Thanks for getting this work into mathlib!

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 7 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:199]: `SchwartzSpace` has `neg_apply`, I don't see any reason not to add them just in case. Incidentally, I'm surprised they can't be autogenerated?

Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:199]: Can you add them, then?
(One way to autogenerate them could be to make a definition `ContDiffMapSupportedIn.add` and use `simps`. The `add` instance would then become very simple. Similarly with the others. @ADedecker Is there a reason you didn't do that?)

Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:199]: I will, I’m just waiting for it to build so I can download the mathlib cache. Lean wants to recompile everything locally and I can’t since I’m at the university library, and while my laptop can compile mathlib fairly quickly, it very much cannot do that without making the noise of an helicopter : )

Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:199]: > make a definition `ContDiffMapSupportedIn.add` and use `simps`. 

Is that a common approach? I've never seen it before. I'll just add them manually since it's two lines anyway.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 9 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:241]: I mean, they do need to be explicit in all the three subsequent definition + lemmas for the `Module` instance to work, no? If I put `in` I would need to repeat it for `coeHom_injective`.

**Review by grunweg — COMMENTED** [review]
Thanks! A second opinion on the two open questions would be nice - and in any case, let's get this in!
maintainer merge

**Comment by grunweg** [comment]
Let me go ahead and merge this PR, to keep this PR series moving. I'll add a TODO to record the simps question, and ask Floris at some point.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 11]
```diff
@@ -159,4 +159,107 @@ theorem coe_copy (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : ⇑(f.co
...
+@[simp]
+lemma zero_apply (x : E) : (0 : 𝓓^{n}_{K}(E, F)) x = 0 :=
+  rfl
+
+instance : Add 𝓓^{n}_{K}(E, F) where
+  add f g := .mk (f + g) (f.contDiff.add g.contDiff) <| by
+    rw [← add_zero 0]
+    exact f.zero_on_compl.comp_left₂ g.zero_on_compl
+
+@[simp]
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:187]:
```suggestion
-- TODO:  can this and the next lemma be auto-generated, e.g. by making `add` a definition tagged with `simps`?
-- Investigate the same question for `zero` above and `sub` , `neg` and `smul` below.
@[simp]
```

**Comment by grunweg** [comment]
bors merge

**Comment by bryangingechen** [comment]
There's a long line in this PR: https://github.com/leanprover-community/mathlib4/actions/runs/18594174689/job/53016043606#step:20:5319

bors r-
bors d+

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 12]
```diff
@@ -159,4 +159,109 @@ theorem coe_copy (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : ⇑(f.co
...
+lemma zero_apply (x : E) : (0 : 𝓓^{n}_{K}(E, F)) x = 0 :=
+  rfl
+
+instance : Add 𝓓^{n}_{K}(E, F) where
+  add f g := .mk (f + g) (f.contDiff.add g.contDiff) <| by
+    rw [← add_zero 0]
+    exact f.zero_on_compl.comp_left₂ g.zero_on_compl
+
+-- TODO:  can this and the next lemma be auto-generated, e.g. by making `add` a definition tagged with `simps`?
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
-- TODO:  can this and the next lemma be auto-generated,
-- e.g. by making `add` a definition tagged with the `simps` attribute?
```

**Comment by grunweg** [comment]
Sorry for the failed batch; let's try again.
bors merge
